### PR TITLE
chore: retroactive review of BitVec.Bitblast

### PR DESCRIPTION
**Pull request by semorrison**
Attempting to get up to speed on this file, initial comments. Please feel free to accept or reject piecewise via emoji, and I'll update. :-)

### CODE REVIEW

File: Std/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -18,11 +18,8 @@ The module is named for the bit-blasting operation in an SMT solver that convert
 expressions into expressions about individual bits in each vector.
 
 ## Main results
-* `x + y : BitVec w` is equivalent to `adc x y false`.
+* `x + y : BitVec w` is `(adc x y false).2`.
 
-## Future work
-All other operations are to be PR'ed later and are already proved in
-https://github.com/mhk119/lean-smt/blob/bitvec/Smt/Data/BitVec.lean.
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:25]: As far as I can see, that file doesn't contain anything analogous to the contents of this file? Perhaps the comment is an orphan from an earlier period when BitVec first arrived in Std?

File: Std/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -18,11 +18,8 @@ The module is named for the bit-blasting operation in an SMT solver that convert
 expressions into expressions about individual bits in each vector.
 
 ## Main results
-* `x + y : BitVec w` is equivalent to `adc x y false`.
+* `x + y : BitVec w` is `(adc x y false).2`.
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:21]: I'm still not thrilled by this file, but not putting my finger on it.

My main complaint is that it proves that something I already knew about is equal to something new.

(Does that make sense? The new thing needs to be introduced and motivated first, and then its interesting to prove old and new things are equal. Sorry if that is a bit vague.)

File: Std/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -99,20 +96,21 @@ theorem adc_overflow_limit (x y i : Nat) (c : Bool) : x % 2^i + (y % 2^i + c.toN
   exact Nat.mod_lt _ (Nat.pow_two_pos i)
 
 theorem carry_succ (w x y : Nat) (c : Bool) : carry (succ w) x y c =
+    --
     decide ((x.testBit w).toNat + (y.testBit w).toNat + (carry w x y c).toNat ≥ 2) := by
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:100]: I'm sad that this isn't in terms of the at-least-two boolean operator `x && y || x && c || y && c`.

Should I be sad?

Maybe this is what I was saying above about `adc` being something new that I don't care about:

I would like the beginning of the file to define
`Nat.carry`, `Bool.atLeastTwo`, `Bool.xorThree`, and `BitVec.adc`.

Then I would like to have the theorems explaining how they relate via `BitVec.toNat` and `BitVec.getLsb`.

Finally (possibly in a different file!) I would like `+ = adc`.

File: Std/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (alexkeizer) [reply Std/Data/BitVec/Bitblast.lean:21]: I can understand your point. In some sense, `adc` is an alternative definition of the addition operation we already have. But, having `adc` allows us to prove things about addition from the perspective as a bit-by-bit transformation with one bit of state.

This was helpful, for example, when proving `x + ~~~x = -1#w`. The argument here is that, actually, the carry bit is always false, and the proof went as follows:
```lean
rw [add_as_adc, adc, iunfoldr_replace (fun _ => false) (-1#w)]
  · rfl
  · simp [adcb]
```

This doesn't necessarily mean we should keep exposing `adc`. Probably we should find the fundamental theorems about `add` that would allow us to make this argument, and expose only those. What comes to mind is:
* Some theorem about `(concat xs x) + (concat ys y) = concat (xs + ys + _) _`
* An analogue of `iunfoldr_replace`, essentially a coinduction principle for addition as an arbitrary-width bitvector transformation

File: Std/Data/BitVec/Bitblast.lean (hunk 1 above)
Comment (mhk119) [reply Std/Data/BitVec/Bitblast.lean:25]: Sorry, meant to link this [file](https://github.com/mhk119/lean-smt/blob/bitvec/Smt/Data/Bitwise.lean).

Comment (semorrison) [reply Std/Data/BitVec/Bitblast.lean:25]: Thanks.

File: Std/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (semorrison) [reply Std/Data/BitVec/Bitblast.lean:21]: Thanks for the explanations.

**Comment by semorrison** [comment]
I've made more use of `omega` in `carry_succ`, and also removed the `x.toNat + y.toNat + z.toNat >= 2` in favour of `x && y || x && z || y && z`, which further shortens the proofs.

**Review by joehendrix — APPROVED** [review]
